US07202369B2
3,4-Dimethoxy-2,5-thiophenedicarboxylic acid (232 g) and copper powder (23 g) were added to DMSO (650 g) at room temperature. The reaction mixture was stirred under oxygen atmosphere for 30 minutes at room temperature and then heated at 120° C. for 7 hours. The reaction mixture was then poured into ice water (500 mL), and the crude product was extracted with ethyl acetate. After drying over anhydrous sodium sulfate, the solvent was removed by evaporation. The residue was vacuum-distilled at 50 mmHg to give 127 g of 3,4-ethylenedioxythiophene in high purity (96% or higher). The purity was confirmed by gas chromatographic analysis. The chemical structure was confirmed by mass analysis and 1H-NMR.

reactant | 3,4-Dimethoxy-2,5-thiophenedicarboxylic acid | 232 g | COC1=C(SC(=C1OC)C(=O)O)C(=O)O | C8H8O6S
catalyst | copper | 23 g | [Cu] | Cu
solvent | DMSO | 650 g | CS(=O)C | C2H6OS
product | 3,4-ethylenedioxythiophene | 127 g | C1OC2=CSC=C2OC1 | C6H6O2S
